* Arm A oscillator 4: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 4: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 30.1938
Cg0 i1_A 0 1.353540e-16
Cg1 nand_Y 0 1.353540e-16
Cc0 i1_A i2_A 2.559870e-17
Cc1 i1_A i4_A 3.171630e-17
Cx0 i1_A 0 0.000000e+00
Rn1_1 i1_Y i2_A 22.8188
Cg2 i2_A 0 2.884000e-16
Cg3 i1_Y 0 2.884000e-16
Cc2 i2_A i3_A 5.337830e-17
Cc3 i2_A i4_A 2.065830e-17
Rn10_2 i10_Y i11_A 19.9080
Cg4 i11_A 0 7.810700e-17
Cg5 i10_Y 0 7.810700e-17
Rn11_3 i11_Y i12_A 19.4973
Cg6 i12_A 0 5.491110e-17
Cg7 i11_Y 0 5.491110e-17
Rn12_4 i12_Y i13_A 19.9080
Cg8 i13_A 0 7.908080e-17
Cg9 i12_Y 0 7.908080e-17
Rn13_5 i13_Y i14_A 19.4973
Cg10 i14_A 0 6.167570e-17
Cg11 i13_Y 0 6.167570e-17
Rn14_6 i14_Y i15_A 19.4973
Cg12 i15_A 0 5.447050e-17
Cg13 i14_Y 0 5.447050e-17
Rn15_7 i15_Y s1524_6 10.4518
Rn15_8 s1524_6 buf_A 9.3000
Rn15_9 s1524_6 i16_A 22.3402
Cg14 i16_A 0 2.435710e-16
Cg15 buf_A 0 0.000000e+00
Cg16 i15_Y 0 7.019820e-17
Cg17 s1524_6 0 3.137700e-16
Cc4 i16_A i17_A 2.546480e-17
Cx1 i16_A 0 0.000000e+00
Rn16_10 i16_Y i17_A 21.3813
Cg18 i17_A 0 1.369070e-16
Cg19 i16_Y 0 1.369070e-16
Cc5 i17_A i18_A 4.743720e-17
Rn17_11 i17_Y i18_A 21.3813
Cg20 i18_A 0 1.263340e-16
Cg21 i17_Y 0 1.263340e-16
Cc6 i18_A i19_A 5.064070e-17
Rn18_12 i18_Y i19_A 21.3813
Cg22 i19_A 0 1.426730e-16
Cg23 i18_Y 0 1.426730e-16
Cc7 i19_A i20_A 3.030210e-17
Rn19_13 i19_Y i20_A 21.1313
Cg24 i20_A 0 1.329310e-16
Cg25 i19_Y 0 1.329310e-16
Cc8 i20_A i21_A 1.669550e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 3.269130e-17
Cg27 i2_Y 0 3.269130e-17
Rn20_15 i20_Y i21_A 29.8098
Cg28 i21_A 0 1.139740e-16
Cg29 i20_Y 0 1.139740e-16
Cc9 i21_A i22_A 1.145480e-17
Cc10 i21_A i23_A 1.145480e-17
Cx2 i21_A 0 1.274390e-16
Cx3 i21_A 0 0.000000e+00
Rn21_16 i21_Y i22_A 21.1313
Cg30 i22_A 0 1.566310e-16
Cg31 i21_Y 0 1.566310e-16
Cc11 i22_A i23_A 4.704240e-17
Rn22_17 i22_Y i23_A 21.5866
Cg32 i23_A 0 1.246850e-16
Cg33 i22_Y 0 1.246850e-16
Cc12 i23_A i24_A 1.201620e-16
Rn23_18 i23_Y i24_A 31.8009
Cg34 i24_A 0 2.215390e-16
Cg35 i23_Y 0 2.215390e-16
Cx4 i24_A 0 1.513330e-16
Cx5 i24_A 0 5.802170e-17
Rn24_19 i24_Y i25_A 19.4973
Cg36 i25_A 0 5.464060e-17
Cg37 i24_Y 0 5.464060e-17
Rn25_20 i25_Y i26_A 19.4973
Cg38 i26_A 0 5.262440e-17
Cg39 i25_Y 0 5.262440e-17
Cc13 i26_A i27_A 3.363320e-17
Rn26_21 i26_Y i27_A 32.5955
Cg40 i27_A 0 2.821010e-16
Cg41 i26_Y 0 2.821010e-16
Cc14 i27_A i28_A 5.581180e-17
Cx6 i27_A 0 2.808530e-17
Cx7 i27_A 0 4.209400e-17
Cx8 i27_A 0 1.402400e-17
Cx9 i27_A 0 0.000000e+00
Cx10 i27_A 0 1.015450e-16
Rn27_22 i27_Y i28_A 20.8991
Cg42 i28_A 0 6.909210e-17
Cg43 i27_Y 0 6.909210e-17
Cc15 i28_A i29_A 5.448400e-17
Cx11 i28_A 0 1.548090e-16
Rn28_23 i28_Y i29_A 31.8277
Cg44 i29_A 0 1.950240e-16
Cg45 i28_Y 0 1.950240e-16
Cc16 i29_A i30_A 5.476610e-17
Cx12 i29_A 0 2.231040e-17
Cx13 i29_A 0 1.513400e-16
Cx14 i29_A 0 0.000000e+00
Cx15 i29_A 0 3.569760e-17
Rn29_24 i29_Y i30_A 22.0598
Cg46 i30_A 0 1.509400e-16
Cg47 i29_Y 0 1.509400e-16
Cx16 i30_A 0 1.483720e-16
Rn3_25 i3_Y i4_A 31.8902
Cg48 i4_A 0 2.213350e-16
Cg49 i3_Y 0 2.213350e-16
Cc17 i4_A i5_A 7.189820e-17
Cc18 i4_A i7_A 3.690470e-18
Cx17 i4_A 0 0.000000e+00
Cx18 i4_A 0 0.000000e+00
Rn30_26 i30_Y nand_B 21.3054
Cg50 nand_B 0 1.773210e-16
Cg51 i30_Y 0 1.773210e-16
Cx19 nand_B 0 1.421870e-16
Rn4_27 i4_Y i5_A 22.5152
Cg52 i5_A 0 2.046210e-16
Cg53 i4_Y 0 2.046210e-16
Cc19 i5_A i6_A 9.572150e-17
Cc20 i5_A i7_A 4.889600e-18
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 3.038620e-17
Cg55 i5_Y 0 3.038620e-17
Rn6_29 i6_Y i7_A 30.1580
Cg56 i7_A 0 1.641610e-16
Cg57 i6_Y 0 1.641610e-16
Cx20 i7_A 0 0.000000e+00
Cx21 i7_A 0 0.000000e+00
Rn7_30 i7_Y i8_A 19.4973
Cg58 i8_A 0 5.339630e-17
Cg59 i7_Y 0 5.339630e-17
Rn8_31 i8_Y i9_A 19.4973
Cg60 i9_A 0 6.167360e-17
Cg61 i8_Y 0 6.167360e-17
Rn9_32 i9_Y i10_A 19.4973
Cg62 i10_A 0 5.339630e-17
Cg63 i9_Y 0 5.339630e-17
Rout_33 buf_X s1549_20 49.1929
Cg64 buf_X 0 2.222710e-15
Cg65 s1549_20 0 2.222710e-15
Cx22 s1549_20 0 4.065160e-16
Cx23 s1549_20 0 2.152770e-16
Cx24 s1549_20 0 7.058730e-17
Cx25 s1549_20 0 8.181280e-17
Cx26 s1549_20 0 5.201240e-17
Cx27 s1549_20 0 3.521090e-16
Cx28 s1549_20 0 1.156460e-16
Cx29 s1549_20 0 2.354100e-17
Cx30 s1549_20 0 1.005100e-16
Cx31 s1549_20 0 1.090830e-16
Cx32 s1549_20 0 5.523020e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
